US06458781B1
Preparation of (S)-4-Methyl-2-[methyl-(3-methyl-butyl)-amino]-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride
(S)-4-Methyl-2-[methyl-(3-methyl-butyl)-amino]-pentanoic acid (0.300 g, 1.39 mmol) was dissolved in dry DMF (4 mL) under nitrogen atmosphere and cooled to 0° C. in an ice-water bath. To this solution were added, in succession, N,N-diisopropylethylamine (0.728 mL, 4.18 mmol) and solid O-benzotriazol-1-yl-N,N,N″,N′-tetramethyluronium hexafluorophosphate (0.528 g, 1.39 mmol). The resulting reaction mixture was stirred at that temperature for 25 minutes; solid 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (0.415 g, 1.39 mmol) was then added. After stirring for, sequentially, 20 minutes at 0° C. and 60 minutes at ambient temperature, reaction mixture was mixed with 60 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (2×60 mL), brine (2×60 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording an viscous oil. The crude product was further purified by flash chromatography (40% EtOAc in hexane) and treated with ethereal HCl. Subsequent concentration in vacuo and drying under vacuum provided 0.460 g (65%) of the pure titled compound as a white foam: mp 37-46° C. APCI-MS m/z 459.4 (MH+).

reactant | (S)-4-Methyl-2-[methyl-(3-methyl-butyl)-amino]-pentanoic acid | 1.39 mmol, 0.300 g | CC(C[C@@H](C(=O)O)N(CCC(C)C)C)C | C12H25NO2
reactant | N,N-diisopropylethylamine | 4.18 mmol, 0.728 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 1.39 mmol, 0.415 g | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
reactant | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-4-Methyl-2-[methyl-(3-methyl-butyl)-amino]-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride | 0.460 g, 65% | Cl.FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)N(CCC(C)C)C)=O)C1=CC=C(C=C1)F | InChI=1S/C28H40F2N2O.ClH/c1-20(2)16-18-32(5)27(19-21(3)4)28(33)31-17-6-7-26(22-8-12-24(29)13-9-22)23-10-14-25(30)15-11-23;/h8-15,20-21,26-27H,6-7,16-19H2,1-5H3,(H,31,33);1H/t27-;/m0./s1
